US04126687
A mixture of 9.25 parts of 1-(4-chlorobutyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one, 7.55 parts of 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 10.6 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 18 hours. After cooling, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is dissolved in 40 parts of ethanol and the solution is acidified with 30 parts of a concentrated hydrochloric acid solution. The whole is stirred for 30 minutes and the solvent is evaporated. The residue is suspended in water and the suspension is alkalized with ammonium hydroxide. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of N,N-dimethylformamide and water. The product is filtered off and dried, yielding 6.5 parts (46%) of 5-chloro-1-{1-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)butyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one hemihydrate; mp. 258° C.

reactant | 1-(4-chlorobutyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C14H17ClN2O
reactant | 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 5-chloro-1-{1-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)butyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one hemihydrate | 46% | O.ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCCCN2C(NC3=C2C=CC=C3)=O)C=C1.ClC1=CC3=C(N(C(N3)=O)C3CCN(CC3)CCCCN3C(NC2=C3C=CC=C2)=O)C=C1 | InChI=1S/2C23H26ClN5O2.H2O/c2*24-16-7-8-21-19(15-16)26-23(31)29(21)17-9-13-27(14-10-17)11-3-4-12-28-20-6-2-1-5-18(20)25-22(28)30;/h2*1-2,5-8,15,17H,3-4,9-14H2,(H,25,30)(H,26,31);1H2
